US09282741B2
Synthesis of 2-(3-chloro-2-pyridyl)-N-[2-methyl-4-chloro-6-[(bis-2-propyl-λ4-sulfanylidene)carbamoyl]phenyl]-5-(trifluoromethyl)pyrazole-3-carboxamide
To a suspension of potassium carbonate (1.79 g, 10 mmol, 1.30 equiv) and 2-amino-3-methyl-5-chloro-N-(bis-2-propyl-λ4-sulfanylidene)benzamide (3.00 g, 9.97 mmol) in dichloromethane (20 mL) was added a solution of 2-(3-chloro-2-pyridyl)-5-(trifluoromethyl)pyrazole-3-carbonyl chloride (4.000 g, 10.97 mmol, 1.10 equiv.) in dichloromethane (10 mL) at room temperature. After 2 h at this temperature, the solids were filtered off. The resulting filtrate was washed with water and dried over Na2SO4. After filtration, the filtrate was concentrated in vacuum and the resulting solids were crystallized from diisopropyl ether to yield the title compound (3.1 g, 54%).

reactant | potassium carbonate | 10 mmol, 1.79 g, 1.30 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 2-amino-3-methyl-5-chloro-N-(bis-2-propyl-λ4-sulfanylidene)benzamide | 9.97 mmol, 3.00 g | NC1=C(C(=O)N=S(C(C)C)C(C)C)C=C(C=C1C)Cl | C14H21ClN2OS
reactant | 2-(3-chloro-2-pyridyl)-5-(trifluoromethyl)pyrazole-3-carbonyl chloride | 10.97 mmol, 4.000 g, 1.10 equiv. | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)Cl)C(F)(F)F | C10H4Cl2F3N3O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(3-chloro-2-pyridyl)-N-[2-methyl-4-chloro-6-[(bis-2-propyl-λ4-sulfanylidene)carbamoyl]phenyl]-5-(trifluoromethyl)pyrazole-3-carboxamide | 3.1 g, 54% | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)NC1=C(C=C(C=C1C(N=S(C(C)C)C(C)C)=O)Cl)C)C(F)(F)F | C24H24Cl2F3N5O2S
